US07238725B2
Intermediate 62: N-Formyl-1-methoxy-9H-carbazole
In a 50 mL round bottomed flask was dissolved POCl3 (0.6 mL, 15.23 mM) in 20 mL of dry DMF. The reaction mixture was stirred at 0° C. in an ice bath. To this was added slowly, 1-methoxy-9H-carbazole (1 g, 5.07 mM) dissolved in 30 mL of dry DMF. The reaction mixture was stirred for 2 hrs. Water was added to the reaction mixture and the precipitated product was filtered off. The residue was dissolved in EtOAc and was washed with brine and dried over anh. Na2SO4. Ethyl acetate was then evaporated to obtain the desired product as a white fluffy solid with a yield of 96% (1.1 g); mp 161-163° C.

reactant | 1-methoxy-9H-carbazole | 5.07 mM, 1 g | COC1=CC=CC=2C3=CC=CC=C3NC12 | C13H11NO
reactant | Water | O | H2O
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | POCl3 | 15.23 mM, 0.6 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | N-Formyl-1-methoxy-9H-carbazole | yield of 96% | C(=O)N1C2=CC=CC=C2C=2C=CC=C(C12)OC | C14H11NO2
